US09079909B2
To a solution of ethyl 2-(5-amino-3-(4-fluorophenyl)-1H-pyrazol-1-yl)acetate (6.91 g, 26.3 mmol) in pyridine (62 mL) was added acetic anhydride (3 ml, 31.5 mmol). The reaction was stirred at room temperature for 16 h. Ethanol was added and the mixture was concentrated in vacuo. The crude residue was purified by column chromatography (silica gel, gradient 10 to 100% ethyl acetate/isohexane) yielding ethyl 2-(5-acetamido-3-(4-fluorophenyl)-1H-pyrazol-1-yl)acetate as a solid (7.6 g).

reactant | ethyl 2-(5-amino-3-(4-fluorophenyl)-1H-pyrazol-1-yl)acetate | 26.3 mmol, 6.91 g | NC1=CC(=NN1CC(=O)OCC)C1=CC=C(C=C1)F | C13H14FN3O2
reactant | acetic anhydride | 31.5 mmol, 3 ml | C(C)(=O)OC(C)=O | C4H6O3
reactant | Ethanol | C(C)O | C2H6O
solvent | pyridine | 62 mL | N1=CC=CC=C1 | C5H5N
product | ethyl 2-(5-acetamido-3-(4-fluorophenyl)-1H-pyrazol-1-yl)acetate | 7.6 g | C(C)(=O)NC1=CC(=NN1CC(=O)OCC)C1=CC=C(C=C1)F | C15H16FN3O3
